US05965775
A synthesis proceeding via four stages can be taken from EP 562 435. 2,4,5-Trichloronitrobenzene is first reacted with an alkali metal fluoride to give 5-chloro-2,4-difluoronitrobenzene. By means of chlorinating denitration the 5-chloro-2,4-difluoronitrobenzene can be converted to 1,3-dichloro-4,6-difluorobenzene. The 1,3-dichloro-4,6-difluorobenzene is nitrated to give 2,6-dichloro-3,5-difluoronitrobenzene. The desired 3,5-difluoroaniline can be prepared from the 2,6-dichloro-3,5-difluoronitrobenzene by reaction with hydrogen with elimination of hydrogen chloride and reduction of the nitro group.

reactant | 5-chloro-2,4-difluoronitrobenzene | ClC=1C(=CC(=C(C1)[N+](=O)[O-])F)F | C6H2ClF2NO2
reactant | 1,3-dichloro-4,6-difluorobenzene | ClC1=CC(=C(C=C1F)F)Cl | C6H2Cl2F2
product | 2,6-dichloro-3,5-difluoronitrobenzene | ClC1=C(C(=C(C=C1F)F)Cl)[N+](=O)[O-] | C6HCl2F2NO2
